US04782076
Step (1) Preparation of 1-Ethyl-2-hydroxy-3-cyclohexeneethanol
A solution of 1-ethyl-2-oxocyclohex-3-eneacetic acid methyl ester (5.00 g, 25.48 mmol) in 10 mL of anhydrous ether was added dropwise under nitrogen to a 0° C. solution of lithium aluminum hydride (967 mg, 25.48 mmol) in 25 mL of anhydrous ether. The reaction was quenched by dropwise addition of 0.97 mL of water, 0.97 mL of 1M NaOH (aqueous) and 2.7 mL of water. The solution was filtered and the salts were boiled 3×in 25 mL of ethyl acetate and these washings were combined with the first filtrate. The filtrate was concentrated in vacuo to afford 4.47 g (103%) of product as a colorless oil.

reactant | 1-ethyl-2-oxocyclohex-3-eneacetic acid methyl ester | 25.48 mmol, 5.00 g | COC(CC1(C(C=CCC1)=O)CC)=O | C11H16O3
reactant | lithium aluminum hydride | 25.48 mmol, 967 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
product | 1-Ethyl-2-hydroxy-3-cyclohexeneethanol | 4.47 g, 103% | C(C)C1(C(C=CCC1)O)CCO | C10H18O2
